US07612075B2
C. 5-Oxo-4-prop-2-ynyl-piperazine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester.
Sodium hydride (0.20 mg, 4.9 mmol) is added to a solution of 2-benzyloxycarbonylamino-3-(bromoactyl-prop-2-ynyl-amino)-propionic acid methyl ester (2.0 g, 4.8 mmol) in THF (50 mL) at 0° C. The solution is stirred for 40 minutes then quenched with saturated NH4Cl solution. The reaction mixture is concentrated in vacuo then diluted with CH2Cl2 and washed with brine. The organic layer is dried over, filtered and concentrated in vacuo. The crude product is purified by chromatography eluting with 50% EtOAc/hexanes to give the title product (1.4 g, 4.1 mmol). 1H NMR (CDCl3, 300 MHz) δ7.30 (m, 5H), 5.20 (s, 2H), 5.10 (m, 1H), 4.30 (dd, 1H), 4.25 (d, 2H), 4.08 (m, 1H), 4.00 (dd, 1H), 3.78 (dd, 1H), 3.78 (s, 3H), 2.25 (t, 1H).

reactant | Sodium hydride | 4.9 mmol, 0.20 mg | [H-].[Na+]
reactant | 2-benzyloxycarbonylamino-3-(bromoactyl-prop-2-ynyl-amino)-propionic acid methyl ester | 4.8 mmol, 2.0 g | COC(C(CN(CC#C)C(CBr)=O)NC(=O)OCC1=CC=CC=C1)=O | C17H19BrN2O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Oxo-4-prop-2-ynyl-piperazine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 4.1 mmol, 1.4 g | COC(=O)C1N(CC(N(C1)CC#C)=O)C(=O)OCC1=CC=CC=C1 | C17H18N2O5
